US08252935B2
b) 4-Methyl-2-(5-piperidin-2-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester
A solution of 4-Methyl-2-(5-pyridin-2-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester, compound 10a (30 mg, 0.068 mmol) in MeOH (2.3 mL), platinum oxide (1.55 mg, 0.007 mmol) and 4N HCl/dioxane (19 μl) was hydrogenated at 30 psi for 3 hours. The reaction mixture was filtered through celite, washed with MeOH and concentrated in vacuo. The residue was partitioned between dichloromethane and Na2CO3 to give the free base; (30 mg, 99%). Calculated for C26H32F3NO2 (M+H) 447.53, Found 448.4

reactant | 4-Methyl-2-(5-pyridin-2-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1=NC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H26F3NO2
reactant | HCl dioxane | 4N, 19 μl | Cl.O1CCOCC1
solvent | MeOH | 2.3 mL | CO | CH4O
catalyst | platinum oxide | 0.007 mmol, 1.55 mg | [Pt]=O
product | 4-Methyl-2-(5-piperidin-2-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1NCCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
